data/mechanism_extracts/EurJOC/10.1002_ejoc.201101313.json
{"doi": "10.1002_ejoc.201101313", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical intermolecular [2+2] cycloaddition between an enol ether (1-(prop-1-en-1-yloxy)-4-propylbenzene) and an olefinic carboxylic acid (hex-5-enoic acid) via an anodically generated radical cation, with the olefin nucleophile noncovalently condensed at the electrode surface.", "mechanism_family": ["radical_cation", "radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of the electron-rich aryl enol ether (1) to its radical cation, which is trapped at the electrode surface by the surface-condensed olefin (2) to give a [2+2] cycloadduct.", "key_intermediates": [{"name": "aryl enol ether radical cation of 1-(prop-1-en-1-yloxy)-4-propylbenzene", "smiles": "CCCc1ccc(O/C=C/C)cc1", "role": "transient"}, {"name": "distonic radical cation / 1,4-radical cation intermediate from C-C bond formation with hex-5-enoic acid", "smiles": null, "role": "reactive"}, {"name": "[2+2] cyclobutane cycloadduct 3 (diastereomeric mixture)", "smiles": null, "role": "reactive"}], "electron_flow": "The anode removes one electron from the electron-rich aryl enol ether 1 to give a short-lived radical cation; the pendant olefin of hex-5-enoic acid 2, noncovalently condensed at the electrode surface, traps this radical cation and ring-closes to the cyclobutane radical cation, which is reduced back to the neutral [2+2] adduct 3.", "rate_determining_step": "trapping of the transient radical cation of 1 by the olefin nucleophile 2 (limited by its local concentration at the electrode surface)", "probe_reagents": [{"name": "high-equivalent loading of hex-5-enoic acid (20 mol equiv., 200 mM)", "smiles": "OC(=O)CCCC=C", "purpose": "intermediate_trap", "observation": "Required excess for effective trapping of the short-lived radical cation under conventional conditions; yields of 3 dropped rapidly as the olefin amount was decreased, whereas with surface-condensed electrodes high yields were retained even with much less olefin."}], "evidence_types_used": ["intermediate_trap_other", "kinetic_order"], "evidence_strength": "weak", "notes": "Mechanism is presented as a proposal supported indirectly by the dependence of yield on olefin loading and by the comparison between conventional vs surface-condensed electrode conditions; no TEMPO/BHT trapping, CV, EPR, or DFT data shown on the provided page. Only the first page of the communication was supplied, so later mechanistic details (if any) are not captured."}
